*
V1 N001 Entrada 10
C1 N001 Entrada 10
C2 N001 Entrada 4
C3 N001 Entrada 2
C4 N001 Entrada 6
* .op
* .ac list 0.1591549
.meas AC C_eq mag 1/(2*pi*f*V(Entrada))
.tf 10 10
.backanno
.end
